US07667039B2
4-(1-Cyano-cyclopropyl)-benzoic acid
To 2 g (12.4 mmol) of 4-(cyanomethyl)benzoic acid (Ubichem, Eastleigh, UK) and 10.9 ml (124 mmol) 1,2-dibromoethane (Fluka, Buchs, Switzerland) cooled at 0° C. with an ice-bath are added a solution of 14.4 g (62 mmol) benzyltriethylammonium chloride in 50 ml 8 M aqueous NaOH. The reaction mixture is stirred over night at rt and then is acidified at pH 1-2 with 6 M aqueous HCl and is extracted with EtOAc. The organic layer is washed with H2O (2×) and evaporated to dryness. The solid is triturated in MeOH to provide the crude title compound. ES-MS: 186 (M−H)−; analytical HPLC: tret=4.43 minutes (Grad 2).

reactant | 4-(cyanomethyl)benzoic acid | 12.4 mmol, 2 g | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
reactant | 1,2-dibromoethane | 124 mmol, 10.9 ml | BrCCBr | C2H4Br2
reactant | HCl | 6 M | Cl | ClH
catalyst | benzyltriethylammonium chloride | 62 mmol, 14.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | NaOH | 8 M, 50 ml | [OH-].[Na+]
product | 4-(1-Cyano-cyclopropyl)-benzoic acid | C(#N)C1(CC1)C1=CC=C(C(=O)O)C=C1 | C11H9NO2
